US06140330
2-{3-Allyloxy-4-[3-(1-piperidinyl)carbonylacryloyl]phenoxymethylcarbonylamino}benzothiazole (0.55 g) is dissolved in methanol (70 ml) and dioxane (40 ml), and thereto are added 10% palladium-carbon (0.15 g), p-toluenesulfonic acid monohydrate (70 mg) and water (3 ml). The mixture is subjected to deaeration, and the mixture is refluxed under nitrogen atmosphere overnight. The mixture is filtered through a cerite pad, and to the filtrate is added water-methylene chloride, and the mixture is separated, and dried over sodium sulfate. The residue is crystallized from ethanol-methylene chloride, and recrystallized from dimethylformamide-ethanol to give 2-{3-hydroxy-4-[3-(1-piperidinyl)carbonylacryloyl]phenoxymethylcarbonylamino}benzothiazole (120 mg).

reactant | 2-{3-Allyloxy-4-[3-(1-piperidinyl)carbonylacryloyl]phenoxymethylcarbonylamino}benzothiazole | 0.55 g | C(C=C)OC=1C=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC1C(C=CC(=O)N1CCCCC1)=O | C27H27N3O5S
reactant | p-toluenesulfonic acid monohydrate | 70 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 3 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
product | 2-{3-hydroxy-4-[3-(1-piperidinyl)carbonylacryloyl]phenoxymethylcarbonylamino}benzothiazole | 120 mg | OC=1C=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC1C(C=CC(=O)N1CCCCC1)=O | C24H23N3O5S
